US07772262B2
b) tert-butyl 5-cyclopropyl-1,1-dioxo-[1,2,5]thiadiazolidine-2-carboxylate
410 mg of tert-butyl cyclopropylsulfamoylcarbamate, 150 μl of 1,2-dibromoethane and 719 mg of K2CO3 were boiled under reflux in 6 ml of anhydrous acetone for 9 hours. The reaction mixture was left to stand at RT for 15 hours. Then 20 mg of tetrabutylammonium iodide were added, and the mixture was boiled under reflux for 9 hours. It was then diluted with 100 ml of EA and washed twice with 10 ml of water each time. After drying over Na2SO4, the solvent was removed in vacuo. 400 mg of a colorless oil were obtained.

reactant | tert-butyl cyclopropylsulfamoylcarbamate | 410 mg | C1(CC1)NS(=O)(=O)NC(OC(C)(C)C)=O | C8H16N2O4S
reactant | 1,2-dibromoethane | 150 μl | BrCCBr | C2H4Br2
reactant | K2CO3 | 719 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 6 ml | CC(=O)C | C3H6O
catalyst | tetrabutylammonium iodide | 20 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | EA | 100 ml | CC(OCC)=O | C4H8O2
product | tert-butyl 5-cyclopropyl-1,1-dioxo-[1,2,5]thiadiazolidine-2-carboxylate | 400 mg | C1(CC1)N1CCN(S1(=O)=O)C(=O)OC(C)(C)C | C10H18N2O4S
